US07977481B2
Step 1: Synthesis of 3-[4-(5-Bromo-thiophen-2-yl)-pyrimidin-2-ylamino]-benzaldehyde
A suspension of {3-[4-(5-Bromo-thiophen-2-yl)-pyrimidin-2-ylamino]-phenyl}-methanol (566 mg, 1.57 mmol) was treated with MnO2 (1.4 g, 15.7 mmol) for 15 h. Another aliquot of 500 mg MnO2 was added and the reaction was allowed to stir for 48 h. The mixture was filtered over celite and dried in vacuo to afford 375 mg (88% pure by LCMS and 1H NMR) which was used crude in the next step.

reactant | {3-[4-(5-Bromo-thiophen-2-yl)-pyrimidin-2-ylamino]-phenyl}-methanol | 1.57 mmol, 566 mg | BrC1=CC=C(S1)C1=NC(=NC=C1)NC=1C=C(C=CC1)CO | C15H12BrN3OS
catalyst | MnO2 | 15.7 mmol, 1.4 g | O=[Mn]=O
catalyst | MnO2 | 500 mg | O=[Mn]=O
product | 3-[4-(5-Bromo-thiophen-2-yl)-pyrimidin-2-ylamino]-benzaldehyde | BrC1=CC=C(S1)C1=NC(=NC=C1)NC=1C=C(C=O)C=CC1 | C15H10BrN3OS
